US08455646B2
Preparation of 8-methyl-8-azabicyclo[3.2.1]octan-3-yl 2-phenyl-2-(phenylamino)acetate (C17)
A mixture of 2-phenyl-2-(phenylamino)acetic acid I1 (250 mg, 0.90 mmol), EDC (255 mg, 1.35 mmol), HOBt (245 mg, 1.80 mmol) and 8-methyl-8-azabicyclo[3.2.1]octan-3-ol (380 mg, 2.71 mmol) in dry DMF (10 mL) is heated under microwave irradiation at 100° C. for 1 hour (LC-MS monitoring: complete conversion). The reaction is concentrated under reduced pressure and the residue is portioned between EtOAc and water. The organic phase is dried over Na2SO4, filtered and evaporated to dryness. The resulting crude is purified by preparative HPLC. The collected compound is partitioned between 1N NaHCO3 and DCM, the organic phase is separated dried over Na2SO4, filtered and evaporated under vacuum to give 20.1 mg of the title compound as a colorless oil (7% yield, mixture of diastereoisomers).

reactant | 2-phenyl-2-(phenylamino)acetic acid | C1(=CC=CC=C1)C(C(=O)O)NC1=CC=CC=C1 | C14H13NO2
reactant | EDC | 1.35 mmol, 255 mg
reactant | HOBt | 1.80 mmol, 245 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 8-methyl-8-azabicyclo[3.2.1]octan-3-ol | 2.71 mmol, 380 mg | CN1C2CC(CC1CC2)O | C8H15NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 8-methyl-8-azabicyclo[3.2.1]octan-3-yl 2-phenyl-2-(phenylamino)acetate | 20.1 mg, 7% yield | C1(=CC=CC=C1)C(C(=O)OC1CC2CCC(C1)N2C)NC2=CC=CC=C2 | C22H26N2O2
